US06391901B1
Preparation of 6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl)benzyl]-2-[4-(methylaminocarbonylamino)phenyl]benzo[b]thiophene
6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-aminophenyl]benzo[b]thiophene (80 mg) was dissolved in THF (5.0 mL), treated with sodium bicarbonate (45 mg) while stirring at ambient temperature, cooled to 0° C. in an ice bath before treated with methyl isocyanate (42 μL) under argon. The reaction mixture. was stirred at ambient temperature for 24 h and concentrated. Chromatography with Et3N:MeOH:EtOAc (5:10:85) afforded the title compound (50 mg).

reactant | 6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-aminophenyl]benzo[b]thiophene | 80 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)N)C1 | C27H28N2O2S
reactant | sodium bicarbonate | 45 mg | C([O-])(O)=O.[Na+]
reactant | methyl isocyanate | 42 μL | CN=C=O | C2H3NO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl)benzyl]-2-[4-(methylaminocarbonylamino)phenyl]benzo[b]thiophene | 50 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)NC(=O)NC)C1 | C29H31N3O3S
